US08975254B2
c) (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile
The title compound was prepared from 2,6-difluoro-4-(1H-pyrazol-5-yl)-benzonitrile (1.39 g, 6.78 mmol) and (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate (1.423 g, 8.12 mmol), triphenylphosphine (2.129 g, 8.12 mmol) and DIAD (1.578 ml, 8.12 mmol) using the method of Example 34(c) affording 0.70 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 0.95 (d, 3H), 3.22 (m, 1H), 4.01 (m, 2H), 7.02 (d, 1H), 7.78 (m, 1H), 7.81 (m, 1H), 7.88 (d, 1H).

reactant | 2,6-difluoro-4-(1H-pyrazol-5-yl)-benzonitrile | 6.78 mmol, 1.39 g | FC1=C(C#N)C(=CC(=C1)C1=CC=NN1)F | C10H5F2N3
reactant | (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate | 8.12 mmol, 1.423 g | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | triphenylphosphine | 8.12 mmol, 2.129 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 8.12 mmol, 1.578 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
product | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile | 0.70 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)F)C | C13H12F2N4
